US07465730B2
To a solution of 3-acetyl-1-(2,4-dimethoxyphenyl)-2,5-dimethylpyrrole (273 mg, 1.0 mmol) in toluene (5 mL) at −78° C. was added 3-cyclopropanecarbonyl chloride (0.11 mL, 1.2 mmol) followed by dropwise addition of a 1.0M solution of tin(IV) chloride in CH2Cl2 (1.2 mL, 1.2 mmol). The reaction was allowed to warm to room temp overnight. The solution was diluted with 0.25M NaOH, extracted with EtOAc, the organic layer washed with brine, dried over MgSO4, filtered, concentrated in vacuo, and purified by flash chromatography (10-25% EtOAc/hexanes) to give the dione (MS (ESI) 342 (M +H)+). The dione was taken up in ethanol (5 mL) and excess hydrazine (0.1 mL) was added. The solution was stirred at 40° C. overnight, poured into water, and filtered to give 1-(cyclopropyl)-6-(2,4-dimethoxyphenyl)-4,5,7-trimethyl-6H-pyrrolo[3,4-d]pyridazine as a white solid: 1H NMR (CDCl3, 500 MHz) δ 7.03 (dd, 1H), 6.66-6.56 (m, 2H), 3.90 (s, 3H), 3.75 (s, 3H), 2.75 (s, 3H), 2.47 (s, 3H), 2.39 (quintet, 1H), 2.38 (s, 3H), 1.35-1.28 (m, 2H), 0.97 (dd, 2H); MS (ESI) 338 (M+H)+.

reactant | 3-acetyl-1-(2,4-dimethoxyphenyl)-2,5-dimethylpyrrole | 1.0 mmol, 273 mg | C(C)(=O)C1=C(N(C(=C1)C)C1=C(C=C(C=C1)OC)OC)C | C16H19NO3
reactant | 3-cyclopropanecarbonyl chloride | 1.2 mmol, 0.11 mL | C1CC1C(=O)Cl | C4H5ClO
reactant | tin(IV) chloride | [Sn](Cl)(Cl)(Cl)Cl
reactant | CH2Cl2 | 1.2 mmol, 1.2 mL | C(Cl)Cl | CH2Cl2
reactant | hydrazine | 0.1 mL | NN | H4N2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | NaOH | 0.25M | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-(cyclopropyl)-6-(2,4-dimethoxyphenyl)-4,5,7-trimethyl-6H-pyrrolo[3,4-d]pyridazine | C1(CC1)C1=NN=C(C=2C1=C(N(C2C)C2=C(C=C(C=C2)OC)OC)C)C | C20H23N3O2
